US06313107B1
6-Bromo-2,2,4,4-tetramethyl-chroman
A solution of 4-bromo-2-(3-hydroxy-1,1,3-trimethyl-butyl)-phenol (1.1 g, 3.92 mmol) and p-toluene sulfonic acid (0.744 g, 3.92 mmol) in benzene (20 mL) was refluxed overnight. The reaction mixture cooled to ambient temperature, filtered on silica gel and washed with 10% ethyl acetate in hexane. The filtrate and washings were evaporated in vacuo to an oil which was subjected to flash column chromatography over silica gel (230-400 mesh) using 5% ethyl acetate in hexane as the eluent to afford the title compound as a pale yellow oil (0.84 g, 80%).

reactant | 4-bromo-2-(3-hydroxy-1,1,3-trimethyl-butyl)-phenol | 3.92 mmol, 1.1 g | BrC1=CC(=C(C=C1)O)C(CC(C)(C)O)(C)C | C13H19BrO2
reactant | p-toluene sulfonic acid | 3.92 mmol, 0.744 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 6-Bromo-2,2,4,4-tetramethyl-chroman | 0.84 g, 80% | BrC=1C=C2C(CC(OC2=CC1)(C)C)(C)C | C13H17BrO
